US04111936
Methyl 3-(5-chloro-2-hydroxybenzoyl)propionate was reacted with epibromohydrin in a similar manner to the procedure described in Example 1 (ii) to give methyl 3-[5-chloro-2-(2,3-epoxypropoxy)benzoyl]propionate as an oil (53%).

reactant | Methyl 3-(5-chloro-2-hydroxybenzoyl)propionate | ClC=1C=CC(=C(C(=O)CCC(=O)OC)C1)O | C11H11ClO4
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
product | methyl 3-[5-chloro-2-(2,3-epoxypropoxy)benzoyl]propionate | 53% | ClC=1C=CC(=C(C(=O)CCC(=O)OC)C1)OCC1CO1 | C14H15ClO5
